US04898936
A mixture of 9.0 g. (0.034 mole) of methyl 5-O-(t-butyldimethylsilyl)-2-deoxyribofuranoside, 15 g (0.19 mole) of benzyl bromide, and 21 g (0.076 mole) silver carbonate in 50 ml dry dimethylformamide or other aprotic solvent is heated at 60° C. under a dry nitrogen atmosphere for five days. The mixture is cooled and the solids filtered. The filtrate is then concentrated at reduced pressure to 30 ml volume. To this are added 20 ml pyridine and the mixture heated at 65° C. for three hours. The solvents are again removed under reduced pressure affording a dark gummy residue which is taken up in a mixture of 150 ml toluene and 100 ml DI water. The organic phase is separated, washed with water (2×100 ml), dried (Na2SO4) and filtered. The solvent is removed at reduced pressure affording the methyl 3-O-benzyl-5-O-(t-butyldimethylsilyl)-2-deoxyribofuranoside compound as a red oil.

reactant | methyl 5-O-(t-butyldimethylsilyl)-2-deoxyribofuranoside | 0.034 mole | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@H](CC(OC)O1)O | C12H26O4Si
reactant | benzyl bromide | 0.19 mole, 15 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | DI water | 100 ml | O | H2O
catalyst | silver carbonate | 0.076 mole, 21 g | C([O-])([O-])=O.[Ag+2]
product | methyl 3-O-benzyl-5-O-(t-butyldimethylsilyl)-2-deoxyribofuranoside | C(C1=CC=CC=C1)O[C@H]1CC(OC)O[C@@H]1CO[Si](C)(C)C(C)(C)C | C19H32O4Si
